US05043340
A. 6-[((1-Methylpropoxy)carbonyl)oxy]-2-oxohexane
11.7 g (0.09 mole) of 5-ketohexanoic acid was dissolved in 100 ml of dichloromethane and cooled in an ice bath. 20.0 g (0.2 mole) of N-methylmorpholine was added to the reaction mixture which was stirred under nitrogen. 16.4 g (0.12 mole) of isobutyl chloroformate was dissolved in 25 ml of dichloromethane and slowly added to the reaction over 10 minutes. The reaction mixture continued to be stirred at 0° C., under nitrogen for one hour. The reaction mixture was evaporated in vacuo to an oily solid and used in subsequent reactions.

reactant | 5-ketohexanoic acid | 0.09 mole, 11.7 g | O=C(CCCC(=O)O)C | C6H10O3
reactant | N-methylmorpholine | 0.2 mole, 20.0 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.12 mole, 16.4 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 6-[((1-Methylpropoxy)carbonyl)oxy]-2-oxohexane | CC(CC)OC(=O)OCCCCC(C)=O | C11H20O4
